US05073550
0.70 g of 7-methylpyrazolo[1,5-a]pyrimidine-5-thiol and 1.15 g of (7R)-7-amino-cephalosporanic acid were dissolved in 10 ml of a 20 percent solution of boron trifluoride in acetonitrile and stirred at room temperature for 1 hour. The reaction mixture was concentrated and taken up in 10 ml of water. The solid was filtered off under suction. There was obtained (6R,7R)-7-amino-3-[[(7-methylpyrazolo[1,5-a]pyrimidin-5-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a reddish powder.

reactant | 7-methylpyrazolo[1,5-a]pyrimidine-5-thiol | 0.70 g | CC1=CC(=NC=2N1N=CC2)S | C7H7N3S
reactant | (7R)-7-amino-cephalosporanic acid | 1.15 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile | C(C)#N | C2H3N
product | (6R,7R)-7-amino-3-[[(7-methylpyrazolo[1,5-a]pyrimidin-5-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=2N(C(=C1)C)N=CC2 | C15H15N5O3S2
